US09428528B2
Step 2 Preparation of 2-Methyl-propane-2-sulfinic acid [1-(5-bromo-pyridin-2-yl)-2-cyano-ethyl]-amide
To a solution of Acetonitrile (0.142 g, 3.472 mmol) in dry tetrahydrofuran (10 mL) is added n-butyl lithium (0.222 g, 3.472 mmol) at −78° C. and stir for 30 minutes at same temperature followed by drop wise addition of solution of 2-Methyl-propane-2-sulfinic acid 5-bromo-pyridin-2-ylmethyleneamide (0.5 g, 1.736 mmol) in dry tetrahydrofuran (10 mL) and stirred the reaction at −78° C. for 1 h. Reaction mixture is diluted with aqueous ammonium chloride solution and extracted with ethyl acetate. Organic layer is dried over sodium sulphate, solvent is evaporated in vacuo and purified by combi-flash chromatography using 80% ethyl acetate in hexane to afford the title compound (0.25 g): 1H-NMR (400 MHz, DMSO-d6) δ: 1.17 (s, 9H), 2.93-2.99 (m, 1H), 3.11-3.16 (m, 1H), 4.72-4.78 (m, 1H), 6.09 (d, J=9.24, 1H), 7.64 (d, J=8.44 Hz, 1H), 8.12-8.14 (dd, J1=2.36 Hz, J2=8.4 Hz, 1H), 8.674 (d, 2.24 Hz, 1H). LC-MS (m/z): [M+H]=330.0.

reactant | Acetonitrile | 3.472 mmol, 0.142 g | C(C)#N | C2H3N
reactant | n-butyl lithium | 3.472 mmol, 0.222 g | C(CCC)[Li]
reactant | 2-Methyl-propane-2-sulfinic acid 5-bromo-pyridin-2-ylmethyleneamide | 1.736 mmol, 0.5 g | BrC=1C=CC(=NC1)C=NS(=O)C(C)(C)C | C10H13BrN2OS
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 2-Methyl-propane-2-sulfinic acid [1-(5-bromo-pyridin-2-yl)-2-cyano-ethyl]-amide | 0.25 g | BrC=1C=CC(=NC1)C(CC#N)NS(=O)C(C)(C)C | C12H16BrN3OS
